US09428470B2
A) (E)-1-(5-(Benzyloxy)-2-bromophenyl)-N-hydroxymethanimine
A mixture of 5-(benzyloxy)-2-bromobenzaldehyde (29.5 g), hydroxyl ammonium chloride (7.75 g), sodium bicarbonate (9.36 g), water (30 mL), and ethanol (270 mL) was stirred overnight at room temperature. To the reaction mixture, water (150 mL) was added, and the mixture was concentrated into half the volume under reduced pressure. Then, the residue was subjected to extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was washed with hexane to obtain the title compound (27.2 g)

reactant | 5-(benzyloxy)-2-bromobenzaldehyde | 29.5 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)Br | C14H11BrO2
reactant | hydroxyl ammonium chloride | 7.75 g | [Cl-].O[NH3+]
reactant | sodium bicarbonate | 9.36 g | C([O-])(O)=O.[Na+]
solvent | water | 150 mL | O | H2O
solvent | ethanol | 270 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
product | (E)-1-(5-(Benzyloxy)-2-bromophenyl)-N-hydroxymethanimine | 27.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)\C=N\O)Br | C14H12BrNO2
